US08563575B2
12a) 1-(4-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine
To a stirred solution of 1H-pyrazolo[3,4-b]pyridine (300 mg) in DMF (3.0 mL) was added sodium hydride (101 mg) (60% in mineral oil) with ice-cooling. The mixture was stirred at room temperature for 30 min, and then 1-fluoro-4-nitrobenzene (355 mg) was added. After stirring at room temperature for 2 h, the mixture was warmed up to 50° C. The mixture was stirred at 50° C. for 12 h. Cesium carbonate (821 mg) was added and the mixture was stirred at 100° C. for 12 h, and treated with water and AcOEt. The insoluble material was filtered off. The organic layer was separated and the aqueous layer was extracted with AcOEt. The organic layer was combined, dried over MgSO4 and concentrated in vacuo. The residue was used for the next reaction.

reactant | 1H-pyrazolo[3,4-b]pyridine | 300 mg | N1N=CC=2C1=NC=CC2 | C6H5N3
reactant | sodium hydride | 101 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 355 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cesium carbonate | 821 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-(4-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CC=2C1=NC=CC2 | C12H8N4O2
